US08669249B2
Methyl 2-(4-bromo-2-nitro-6-propionylphenoxy)propanoate (358A)
Using 1-(5-bromo-2-hydroxy-3-nitrophenyl)propan-1-one as the phenol and methyl-2-bromopropanoate as the alkylating agent in the general procedure for alkylation of substituted 2-nitrophenols gives the title compound as a gold oil: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.03-1.10 (m, 3H) 1.44 (d, J=6.82 Hz, 3H) 3.00-3.12 (m, 2H) 3.59 (s, 3H) 4.56 (q, J=6.82 Hz, 1H) 8.07 (d, J=2.53 Hz, 1H) 8.34 (d, J=2.53 Hz, 1H). ESI-MS: m/z 361.1 (M+H)+.

reactant | 1-(5-bromo-2-hydroxy-3-nitrophenyl)propan-1-one | BrC=1C=C(C(=C(C1)C(CC)=O)O)[N+](=O)[O-] | C9H8BrNO4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl-2-bromopropanoate | COC(C(C)Br)=O | C4H7BrO2
product | Methyl 2-(4-bromo-2-nitro-6-propionylphenoxy)propanoate | BrC1=CC(=C(OC(C(=O)OC)C)C(=C1)C(CC)=O)[N+](=O)[O-] | C13H14BrNO6
